US07105507B2
Dicyclohexylammonium (RS)-α-Methyl-3,5-bis(trifluoromethyl)benzeneacetate
n-Butyllithium (2.5M solution in hexanes, 67.6 mL, 169 mmol) was added slowly to a stirred, cooled (−78° C.) solution of 3,5-bis(trifluoromethyl)benzeneacetic acid (20.0 g, 73.5 mmol) in tetrahydrofuran (400 mL) and the mixture was stirred at −78° C. for 1 hour. Iodomethane (6.87 mL, 110 mmol) was added slowly and the mixture was allowed to warm to room temperature and stirred overnight. Aqueous sodium bisulfite (20%) was added until the mixture was acidic. The mixture was extracted with ethyl acetate, the combined organic fractions were dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was dissolved in ethyl acetate (400 mL), dicyclohexylamine (10 mL, 80.85 mmol) was added and the mixture was heated under reflux for 1 hour. The mixture was cooled and the solid was collected and dried in vacuo to give the title compound as a colorless solid (31.13 g, 91%). 1H NMR (400 MHz, CDCl3) δ 7.83 (2H, s), 7.68 (1H, s), 3.66 (1H, q, J 7.1 Hz), 2.83–2.75 (2H, m), 1.87–1.84 (4H, m), 1.71–1.68 (4H, m), 1.60–1.57 (2H, m), 1.48 (3H, d, J 7.1 Hz), 1.28–1.08 (8H, m), and 1.03–0.92 (2H, m).

reactant | n-Butyllithium | 169 mmol, 2.5M, 67.6 mL | C(CCC)[Li]
reactant | 3,5-bis(trifluoromethyl)benzeneacetic acid | 73.5 mmol, 20.0 g | FC(C=1C=C(C=C(C1)C(F)(F)F)CC(=O)O)(F)F | C10H6F6O2
reactant | Iodomethane | 110 mmol, 6.87 mL | IC | CH3I
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | dicyclohexylamine | 80.85 mmol, 10 mL | C1(CCCCC1)NC1CCCCC1 | C12H23N
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
product | Dicyclohexylammonium (RS)-α-Methyl-3,5-bis(trifluoromethyl)benzeneacetate | 31.13 g, 91% | CC(C(=O)[O-])C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F.C1(CCCCC1)[NH2+]C1CCCCC1 | InChI=1S/C12H23N.C11H8F6O2/c1-3-7-11(8-4-1)13-12-9-5-2-6-10-12;1-5(9(18)19)6-2-7(10(12,13)14)4-8(3-6)11(15,16)17/h11-13H,1-10H2;2-5H,1H3,(H,18,19)
